US04123450
Preparation of Phenyl N-isopropylcarbamate
Using the same procedure as in Example 4, isopropylamine (2.36g, 0.04 mole) was reacted with phenyl chloroformate (6.0g, 0.038 mole) in methylene chloride (35 ml) and with aqueous sodium hydroxide. The reaction mixture was stirred for two hours, then allowed to separate. The organic layer was dried over anhydrous magnesium sulfate, then gravity filtered. The filtrate was stripped of solvent on the Rotovap, leaving pure white crystals weighing 6.66g, MP 81°-82° C.

reactant | isopropylamine | 0.04 mole, 2.36g | C(C)(C)N | C3H9N
reactant | phenyl chloroformate | 0.038 mole, 6.0g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | Phenyl N-isopropylcarbamate | C(C)(C)NC(OC1=CC=CC=C1)=O | C10H13NO2
